US05360811
3-(1-Decyl)-5-isoxazolemethanol
To a solution of 1-nitroundecane (38.0 g) and O-trimethylsilylpropynol (24.1 g) in dry benzene (300 ml) was added dropwise a solution of freshly distilled phenylisocyanate (44.9 g) and triethylamine (22.4 g) in dry benzene (50 ml) at 40° C., with stirring. The reaction mixture was heated at 60° C. for 3 hrs, cooled, and filtered. To the filtrate was added 1.0M tetrabutylammonium fluoride (40 ml). After 30 mins, the solution was evaporated, and the residue was flash chromatographed (silica gel, 1% methanol-dichloromethane) to give 15.5 g (34%) of product, mp 55°-56° C.

reactant | 1-nitroundecane | 38.0 g | [N+](=O)([O-])CCCCCCCCCCC | C11H23NO2
reactant | O-trimethylsilylpropynol | 24.1 g | C[Si](OC#CC)(C)C | C6H12OSi
reactant | phenylisocyanate | 44.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 22.4 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-(1-Decyl)-5-isoxazolemethanol | 15.5 g, 34% | C(CCCCCCCCC)C1=NOC(=C1)CO | C14H25NO2
